US04238497
2-(3,4-Dimethylbenzyl)-2-imidazoline hydrochloride (3.43 g; 0.01 mole) was suspended in dry chloroform (50 ml). The so obtained mixture was treated with tetramethylpiperidine (1.41 g; 0.01 mole) in dry chloroform (20 ml) and stirred at ambient temperature for approximately 4 hours with intermittent shaking, any large pieces of solid being broken up by means of a glass rod. Phenylisocyanate (1.20 g; 0.01 mole) in dry chloroform (10 ml) was then added dropwise to the cooled reaction mixture and the resulting mixture stirred overnight at ambient temperature. The solvent was evaporated under reduced pressure, the residue shaken up with water (60 to 100 ml) and filtered. The white solid so obtained was then transferred to a vacuum dessicator over fresh potassium hydroxide and left until the material had a constant melting point, to give 1-N-phenylcarbamoyl-2-(3,4-dimethylphenyl)-2-imidazoline, m.p. 139°-142° C. The 1H NMR spectrum was consistent with the assigned structure.

reactant | 2-(3,4-Dimethylbenzyl)-2-imidazoline hydrochloride | 0.01 mole, 3.43 g | Cl.CC=1C=C(CC=2NCCN2)C=CC1C
reactant | tetramethylpiperidine | 0.01 mole, 1.41 g | CC1C(N(CCC1)C)(C)C | C9H19N
reactant | Phenylisocyanate | 0.01 mole, 1.20 g | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | potassium hydroxide | [OH-].[K+]
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-N-phenylcarbamoyl-2-(3,4-dimethylphenyl)-2-imidazoline | C1(=CC=CC=C1)NC(=O)N1C(=NCC1)C1=CC(=C(C=C1)C)C | C18H19N3O
